US06069151
8-Methoxy-2-methyl-5-phenylquinoline
5-Bromo-8-methoxy-2-methylquinoline (509 mg) and benzene boronic acid (323 mg) were added to a mixture of 2 M aqueous potassium carbonate (2 ml), toluene (10 ml) and ethanol (1 ml) and refluxed for 30 minutes under a nitrogen atmosphere. The mixture was cooled, triphenylphosphine (75 mg) and dichlorobis(triphenylphosphine)palladium chloride (66 mg) were added and the mixture was heated at 60° C. overnight. After cooling, the reaction mixture was diluted with ethyl acetate (30 ml). The organic phase was washed with 2 M aqueous potassium carbonate solution (2×30 ml), dried (magnesium sulphate), filtered and evaporated in vacuo to give the title compound (272 mg) as an off-white solid.

reactant | 5-Bromo-8-methoxy-2-methylquinoline | 509 mg | BrC1=C2C=CC(=NC2=C(C=C1)OC)C | C11H10BrNO
reactant | benzene boronic acid | 323 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 2 M, 2 ml | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 75 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium chloride | 66 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl.[Cl-]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Methoxy-2-methyl-5-phenylquinoline | 272 mg | COC=1C=CC(=C2C=CC(=NC12)C)C1=CC=CC=C1 | C17H15NO
